US06787543B2
3-Bromo-1,1-diphenyl-2-propanone (12.7 g) and N,N-diisopropylethylamine (15.7 ml) were added successively to a solution of (2S)-2-[(2-methoxybenzylamino)methyl]pyrrolidine-1-carboxylic acid benzyl ester (15.6 g) in tetrahydrofuran (156 ml) at 0° C. After being stirred at room temperature for 2 hours, the mixture was poured into ice-water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (3:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give a colorless syrup of (2S)-2-[[N-(2-oxo-3,3-diphenylpropyl)-N-(2-methoxybenzyl)amino]methyl]pyrrolidine-1-carboxylic acid benzyl ester (1.51 g).

reactant | 3-Bromo-1,1-diphenyl-2-propanone | 12.7 g | BrCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13BrO
reactant | N,N-diisopropylethylamine | 15.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S)-2-[(2-methoxybenzylamino)methyl]pyrrolidine-1-carboxylic acid benzyl ester | 15.6 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CNCC1=C(C=CC=C1)OC | C21H26N2O3
solvent | tetrahydrofuran | 156 ml | O1CCCC1 | C4H8O
product | (2S)-2-[[N-(2-oxo-3,3-diphenylpropyl)-N-(2-methoxybenzyl)amino]methyl]pyrrolidine-1-carboxylic acid benzyl ester | 1.51 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CN(CC1=C(C=CC=C1)OC)CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C36H38N2O4
